US06133302
Preparation of 5-[1-benzyl-3-(3,4-dichlorophenyl)-3-oxo-propyl]-1H-tetrazole
5-[1-benzyl-3-(3,4-dichlorophenyl)-3-oxo-propyl]-1(4-methoxybenzyl)-1H-tetrazole (1.6 g, 3.3 mmol), from the previous step) and TFA (20 ml) were mixed and stirred at room temperature under nitrogen atmosphere for 40 hours. The mixture was diluted with water (100 ml) and extracted with methylene chloride (3×200 ml). The organic layers were combined, washed with water (2×100 ml), brine (1×100 ml) and dried over anhydrous sodium sulphate. The solvent was removed under vacuum and the residue was flash chromatographed by using cyclohexane/ethyl acetate 0÷20 as eluent. The title compound was obtained as a colourless solid (0.6 g, 50%) (m.p. 172°-174° C.).

reactant | 5-[1-benzyl-3-(3,4-dichlorophenyl)-3-oxo-propyl]-1(4-methoxybenzyl)-1H-tetrazole | 3.3 mmol, 1.6 g | C(C1=CC=CC=C1)C(CC(=O)C1=CC(=C(C=C1)Cl)Cl)C1=NN=NN1CC1=CC=C(C=C1)OC | C25H22Cl2N4O2
reactant | TFA | 20 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | 100 ml | O | H2O
product | 5-[1-benzyl-3-(3,4-dichlorophenyl)-3-oxo-propyl]-1H-tetrazole | C(C1=CC=CC=C1)C(CC(=O)C1=CC(=C(C=C1)Cl)Cl)C1=NN=NN1 | C17H14Cl2N4O
